US06624171B1
3-[(Dimethylamino)methylidene]-1H-pyrrolo[3,2-b]pyridin-2-one
This monomer was generated in situ (during library synthesis) from 1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one and dimethylformamide di-t-butylacetal in DMF.

reactant | 1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one | N1C(CC2=NC=CC=C21)=O | C7H6N2O
reactant | dimethylformamide di-t-butylacetal | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[(Dimethylamino)methylidene]-1H-pyrrolo[3,2-b]pyridin-2-one | CN(C)C=C1C(NC=2C1=NC=CC2)=O | C10H11N3O
